US06187724B1
With 500 g of myristic acid were mixed 1,100 g of perfluorooctylethanol and 2,300 ml of toluene, and 20 g of concentrated sulfuric acid was slowly added with stirring. The resulting mixture was vigorously refluxed for about 2 hours and 30 minutes to carry out the reaction until water was removed azeotropically. After completion of the reaction, the reaction mixture was cooled and then treated with decoloring carbon. Acetonitrile was added with stirring and the resulting mixture was ice-cooled to 5° C. to 10° C., followed by crystallization for 1 hour. The crystals precipitated were subjected to washing filtration with acetonitrile and then dried to obtain 1,120 g (yield: 75%) of perfluorooctylethyl myristate.

reactant | myristic acid | 500 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | perfluorooctylethanol | 1,100 g | FC(C(F)(F)F)(O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10HF21O
reactant | toluene | 2,300 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
solvent | Acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | perfluorooctylethyl myristate | 1,120 g, yield: 75% | C(CCCCCCCCCCCCC)(=O)OC(C(F)(F)F)(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C24H27F21O2
